US06884821B1
0.55 g of ethyl 1-methyl-5-phenyl-1H-3-pyrazolecarboxylate was dissolved in 10 ml ethanol. 2 ml of 5N aqueous sodium hydroxide solution was added thereto, followed by heating under reflux for 1 hour. The reaction mixture was ice-cooled, neutralized with 2N hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give 0.5 g of 1-methyl-5-phenyl-1H-3-pyrazolecarboxylic acid.

reactant | ethyl 1-methyl-5-phenyl-1H-3-pyrazolecarboxylate | 0.55 g | CN1N=C(C=C1C1=CC=CC=C1)C(=O)OCC | C13H14N2O2
reactant | sodium hydroxide | 5N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-methyl-5-phenyl-1H-3-pyrazolecarboxylic acid | 0.5 g | CN1N=C(C=C1C1=CC=CC=C1)C(=O)O | C11H10N2O2
